US05326873
1.23 g (14.3 mmol) of piperazine was dissolved in 20 ml of THF. 0.8 g of the polymer-bound palladium catalyst of Example 2 and 2.3 ml (28.6 mmol) 3,4-epoxy-1-butene was then added to the reaction mixture. The reaction mixture was stirred for 24 hours at room temperature. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure, resulting in a 98% yield of N,N'-di-(4-hydroxy-2-butenyl)-piperazine (1,4 adduct). None of the isomeric 1,2 adduct was detected.

reactant | piperazine | 14.3 mmol, 1.23 g | N1CCNCC1 | C4H10N2
reactant | 3,4-epoxy-1-butene | 28.6 mmol, 2.3 ml | O1C(C=C)C1 | C4H6O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | palladium | 0.8 g | [Pd] | Pd
product | N,N'-di-(4-hydroxy-2-butenyl)-piperazine | 98% yield | OCC=CCN1CCN(CC1)CC=CCO | C12H22N2O2
